US08071581B2
Step 2: 2-(5,7-Difluoro-quinolin-6-yl)-malonic acid diethyl ester
Ethyl malonate (9.28 g, 8.8 mL, 58.0 mmol) was added dropwise to a mixture of sodium hydride (60 percent in mineral oil, 2.32 g, 58.0 mmol) in 1,4-dioxane (29 mL) at 60° C. CuBr (4.176 g, 29.0 mmol) and 6-bromo-5,7-difluoro-quinoline (7.07 g, 29.0 mmol) were then added and the mixture heated to reflux for 16 h. After such time concentrated hydrochloric acid was added under ice-cooling and then tert-butyl methyl ether and water were added. The separated organic layer was washed with (10%) hydrochloric acid and water sequentially. Dried over sodium sulfate and concentrated. The residue was purified by column chromatography to afford the title compound (3.13 g, 35.4%).

reactant | Ethyl malonate | 58.0 mmol, 8.8 mL, 9.28 g | C(CC(=O)[O-])(=O)OCC
reactant | sodium hydride | 58.0 mmol, 2.32 g | [H-].[Na+]
reactant | 6-bromo-5,7-difluoro-quinoline | 29.0 mmol, 7.07 g | BrC=1C(=C2C=CC=NC2=CC1F)F | C9H4BrF2N
reactant | hydrochloric acid | Cl | ClH
reactant | 1,4-dioxane | 29 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
product | 2-(5,7-Difluoro-quinolin-6-yl)-malonic acid diethyl ester | 3.13 g, 35.4% | C(C)OC(C(C(=O)OCC)C=1C(=C2C=CC=NC2=CC1F)F)=O | C16H15F2NO4
